US04507288
Preparation of 1-[1,3-dichloro-6-trifluoromethyl-9-phenanthryl]-3-di(n-butyl)aminopropanol-β-glycerophosphate (Compound A)
To a 50% aqueous solution of β-glycerophosphoric acid (4.8 g) at ambient temperature with stirring was added 1-[-1,3-dichloro-6-trifluoromethyl-9-phenanthryl]-3-di(n-butyl)aminopropanol (14.0 g). To the mixture was added ethanol (500 ml) and the mixture is heated to about 100° C. to affect solution. The solution is then filtered and the ethanol removed under vacuum until the desired product precipitates as a white crystalline material. After collecting and drying, the desired product has a melting point of 60°-65° C. Elemental analysis is as follows: Calculated C, 51.78; H, 5.80; N, 2.08 and Cl, 10.56 Found C, 51.83; H, 5.65; N, 2.10 and Cl, 10.20.

reactant | β-glycerophosphoric acid | 4.8 g | C(C(CO)OP(=O)(O)O)O | C3H9O6P
reactant | 1-[-1,3-dichloro-6-trifluoromethyl-9-phenanthryl]-3-di(n-butyl)aminopropanol | 14.0 g | ClC1=CC(=CC=2C3=CC(=CC=C3C(=CC12)C(CCN(CCCC)CCCC)O)C(F)(F)F)Cl | C26H30Cl2F3NO
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 1-[1,3-dichloro-6-trifluoromethyl-9-phenanthryl]-3-di(n-butyl)aminopropanol β-glycerophosphate | ClC1=CC(=CC=2C3=CC(=CC=C3C(=CC12)C(CCN(CCCC)CCCC)O)C(F)(F)F)Cl.C(C(CO)OP(=O)(O)O)O | InChI=1S/C26H30Cl2F3NO.C3H9O6P/c1-3-5-10-32(11-6-4-2)12-9-25(33)23-16-22-21(14-18(27)15-24(22)28)20-13-17(26(29,30)31)7-8-19(20)23;4-1-3(2-5)9-10(6,7)8/h7-8,13-16,25,33H,3-6,9-12H2,1-2H3;3-5H,1-2H2,(H2,6,7,8)
